US06294580B1
[2-(3-dimethylamino-propylamino)-5-methyl-thiazol-4-yl]-acetic acid methyl ester
The title compound (854 mg) was prepared from 1.0 g (6.20 mmol) of 3-dimethylaminopropyl thiourea and 1.30 g (6.20 mmol) of methyl 4-bromo-3-oxo-pentanoate according to the method of Intermediate 45: low resolution MS (FAB)m/e 272 (M+).

reactant | 3-dimethylaminopropyl thiourea | 6.20 mmol, 1.0 g | CN(CCCNC(=S)N)C | C6H15N3S
reactant | methyl 4-bromo-3-oxo-pentanoate | 6.20 mmol, 1.30 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
product | [2-(3-dimethylamino-propylamino)-5-methyl-thiazol-4-yl]-acetic acid methyl ester | 854 mg | COC(CC=1N=C(SC1C)NCCCN(C)C)=O | C12H21N3O2S
